US04061761
4-(4-Chloro-3-dimethylsulfamoylphenyl)-3-propyl-2-propylimino-1,3-thiazolidine-4-ol-hydrochloride
6.8 of 2-bromo-4'-chloro-3'-dimethylsulfamoylacetophenone were reacted according to Example 23 with 3.3 g of 1,3-dipropylthiourea. After adding 200 ml of diethyl ether, 4-(4-chloro-3-dimethylsulfamoylphenyl)-3-propyl-2-propylimino-1,3-thiazolidine-4-ol-hydrobromide was separated as an oil. The solvent was decanted, the product was dissolved in 30 ml of water and extracted with 100 ml of ethyl acetate. After drying over sodium sulfate, the solvent was distilled off under reduced pressure, the amorphous residue was dissolved in 30 ml of ethanol and acidified with ethanolic hydrochloric acid. The solvent was distilled off, the residue was dissolved in 40 ml of water and the end product was obtained by lyophilization. Colorless amorphous solid body, decomposition beginning at 128° C, γ C=N1615 cm-1.

reactant | 2-bromo-4'-chloro-3'-dimethylsulfamoylacetophenone | BrCC(=O)C1=CC(=C(C=C1)Cl)S(N(C)C)(=O)=O | C10H11BrClNO3S
reactant | 1,3-dipropylthiourea | 3.3 g | C(CC)NC(=S)NCCC | C7H16N2S
reactant | 4-(4-chloro-3-dimethylsulfamoylphenyl)-3-propyl-2-propylimino-1,3-thiazolidine-4-ol-hydrobromide | Br.ClC1=C(C=C(C=C1)C1(N(C(SC1)=NCCC)CCC)O)S(N(C)C)(=O)=O
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | 4-(4-Chloro-3-dimethylsulfamoylphenyl)-3-propyl-2-propylimino-1,3-thiazolidine-4-ol-hydrochloride | Cl.ClC1=C(C=C(C=C1)C1(N(C(SC1)=NCCC)CCC)O)S(N(C)C)(=O)=O | InChI=1S/C17H26ClN3O3S2.ClH/c1-5-9-19-16-21(10-6-2)17(22,12-25-16)13-7-8-14(18)15(11-13)26(23,24)20(3)4;/h7-8,11,22H,5-6,9-10,12H2,1-4H3;1H
